US09169187B2
To (4-methoxy-phenyl)-[4-(3,4,5-tris-octadecyloxy-cyclohexylmethoxy)-phenyl]-methanol (110 mg, 97.2 μmol) were added toluene (2 mL), ethyl carbamate (17.8 mg, 200 μmol), and methanesulfonic acid (1 μL, 15 μmol) and the mixture was stirred at 110° C. for 2 hr. The reaction mixture was cooled to room temperature, sodium carbonate (5 mg, 47 μmol) was added and the solvent was evaporated. The residue was crystallized from methanol (5 mL) to give ethyl{(4-methoxy-phenyl)-[4-(3,4,5-tris-octadecyloxy-cyclohexylmethoxy)-phenyl]-methyl}-carbamate (127 mg, 100%).

reactant | (4-methoxy-phenyl)-[4-(3,4,5-tris-octadecyloxy-cyclohexylmethoxy)-phenyl]-methanol | 97.2 μmol, 110 mg | COC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)OCC1CC(C(C(C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C75H134O6
reactant | ethyl carbamate | 200 μmol, 17.8 mg | C(N)(OCC)=O | C3H7NO2
reactant | methanesulfonic acid | 15 μmol, 1 μL | CS(=O)(=O)O | CH4O3S
reactant | sodium carbonate | 47 μmol, 5 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl{(4-methoxy-phenyl)-[4-(3,4,5-tris-octadecyloxy-cyclohexylmethoxy)-phenyl]-methyl}-carbamate | 127 mg, 100% | C(C)OC(NC(C1=CC=C(C=C1)OCC1CC(C(C(C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)C1=CC=C(C=C1)OC)=O | C78H139NO7
